US04147872
3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-1-N-(2-propynyl)-1,2,5,6-tetrahydropyridine
A mixture of 1.0 g. (3.33 mmoles) of 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-1,2,5,6-tetrahydropyridine, 539 mg. (3.90 mmoles) of anhydrous potassium carbonate and 395 mg. (3.32 mmoles) of 1-bromo-2-propyne in 23 ml. of ethanol is heated at reflux for 20 hours. The reaction mixture is evaporated and dissolved in 100 ml. of saturated sodium bicarbonate and 200 ml. of dichloromethane. The organic extract is washed with two 150 ml. portions of saturated sodium chloride, dried over magnesium sulfate and evaporated. The residue is crystallized from pentane to yield 161 mg. of the title compound.

reactant | 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-1,2,5,6-tetrahydropyridine | 3.33 mmoles | CC(CCCCCC)(C)C1=CC(=C(C=C1)C=1CNCCC1)O | C20H31NO
reactant | potassium carbonate | 3.90 mmoles | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-propyne | 3.32 mmoles | BrCC#C | C3H3Br
solvent | ethanol | C(C)O | C2H6O
product | 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-1-N-(2-propynyl)-1,2,5,6-tetrahydropyridine | CC(CCCCCC)(C)C1=CC(=C(C=C1)C=1CN(CCC1)CC#C)O | C23H33NO
